US05064564
Synthesis of (1R,2S)-1-cyano-2-hexyl-1-[4-{4-(4-octyloxyphenyl)phenylmethoxy}phenyl]cyclopropane
In 10 ml of DMF was dissolved 49 mg of (1R,2S)-1-cyano-2-hexyl-1-(4-hydroxyphenyl)cyclopropane as obtained in Example 11. Thereto was added 34 mg of potassium t-butoxide, and the resulting mixture was stirred at room temperature for 70 minutes. Thereto was added dropwise a solution of 98 mg of 4-(4-octyloxyphenyl)benzyl bromide in 3 ml of DMF, and this mixture was stirred for 6 hours. Thereafter, 20 ml of 5% hydrochloric acid was added to the reaction mixture, and the resulting mixture was subjected to extraction with 50 ml of ether. The resulting organic layer was washed with water and then with saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was removed by evaporation and the residue was purified by silica gel column chromatography (solvent: hexane/ethyl acetate=10/1), thereby obtaining 103 mg of the desired compound in the form of white crystals.

reactant | (1R,2S)-1-cyano-2-hexyl-1-(4-hydroxyphenyl)cyclopropane | 49 mg | C(#N)[C@]1([C@H](C1)CCCCCC)C1=CC=C(C=C1)O | C16H21NO
reactant | potassium t-butoxide | 34 mg | CC(C)([O-])C.[K+]
reactant | 4-(4-octyloxyphenyl)benzyl bromide | 98 mg | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(CBr)C=C1 | C21H27BrO
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (1R,2S)-1-cyano-2-hexyl-1-[4-{4-(4-octyloxyphenyl)phenylmethoxy}phenyl]cyclopropane | 103 mg | C(#N)[C@]1([C@H](C1)CCCCCC)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C37H47NO2
